US06051712
In an analogous manner to that described in Example 22 (l), by cleaving off the BOC group using hydrogen chloride in methanol from tert-butyl (E)-(3RS,4SR)-4-(4-fluoro-phenyl)-3-(2-naphthalen-2-yl-vinyl)-piperidine-1-carboxylate there was obtained (E)-(3RS,4SR)-4-(4-fluoro-phenyl)-3-(2-naphthalen-2-yl-vinyl)-piperidine as a pale yellow oil; MS: 331 (M)+.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl (E)-(3RS,4SR)-4-(4-fluoro-phenyl)-3-(2-naphthalen-2-yl-vinyl)-piperidine-1-carboxylate | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)\C=C\C1=CC2=CC=CC=C2C=C1 | C28H30FNO2
solvent | methanol | CO | CH4O
product | (E)-(3RS,4SR)-4-(4-fluoro-phenyl)-3-(2-naphthalen-2-yl-vinyl)-piperidine | FC1=CC=C(C=C1)C1C(CNCC1)\C=C\C1=CC2=CC=CC=C2C=C1 | C23H22FN
